US08008293B2
Synthesis of [(2R,6S)-6-(3,4,5-trifluorophenyl)piperidine-2-yl]methanol
Under a nitrogen atmosphere, a tetrahydrofuran (10 mL) solution of (2R,6S)-6-(3,4,5-trifluorophenyl)piperidine-2-carboxylic acid methyl ester (3.25 g) was added dropwise at −20° C. into a tetrahydrofuran (50 mL) suspension of lithium aluminum hydride (621 mg). After confirming the disappearance of the raw materials, water (0.62 mL), 5 N sodium hydroxide solution (0.62 mL), and water (1.86 mL) were added in sequence to the reaction solution at the same temperature. After stirring for 15 minutes at the same temperature, ethyl acetate was added, and the resultant was filtered on celite. The filtrate was passed through a silica pad (carrier: Chromatrex NH, eluting solvent: ethyl acetate), and by removing the solvent under a vacuum, the title compound (2.87 g) was obtained. The physical property values are as follows.

reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | (2R,6S)-6-(3,4,5-trifluorophenyl)piperidine-2-carboxylic acid methyl ester | 3.25 g | COC(=O)[C@@H]1N[C@@H](CCC1)C1=CC(=C(C(=C1)F)F)F | C13H14F3NO2
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 621 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 5 N, 0.62 mL | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 1.86 mL | O | H2O
solvent | water | 0.62 mL | O | H2O
product | [(2R,6S)-6-(3,4,5-trifluorophenyl)piperidine-2-yl]methanol | 2.87 g | FC=1C=C(C=C(C1F)F)[C@@H]1CCC[C@@H](N1)CO | C12H14F3NO
